US07612211B2
B. 2-(4-trifluoromethyl-phenoxy)-acetimidic acid ethyl ester hydrochloride
A 5-L 3-neck round bottom flask equipped with a mechanical stirrer, 1-L pressure-equalizing addition funnel and gas outlet adapter, Claisen head with a thermocouple and nitrogen inlet adapter, in an ice bath, was charged with HCl in ether (2 M, 815 mL) via addition funnel. The addition funnel was replaced with a clean 500-mL addition funnel, and the solution was stirred until the internal temperature was approximately 0° C. To the addition funnel was added (4-trifluoromethyl-phenoxy)-acetonitrile (neat, 273.0 g, 1.36 mol) followed by ethanol (86.9 mL, 1.49 mol). The solution of (4-trifluoromethyl-phenoxy)-acetonitrile was added drop-wise over 20 min, so not to exceed 2.6° C. The stirring was continued for 20 min in the ice bath after the addition was complete. The ice bath was removed and the reaction was stirred at room temperature for 6 h. At 15° C., the orange solution became hazy, followed by sudden precipitation of a thick solid. Once room temperature was achieved, ether (800 mL) was added, a spatula was used to free the solid from the sides of the flask, and the solid was filtered with a Buchner funnel. The yellowish solid became white after washing with ether (500 mL), and the solid was air-dried for 12 h at rt. The collected solid was transferred to an amber bottle and afforded 306.0 g (79.5% isolated yield, 67% HPLC purity). 1H-NMR (400 MHz, CD3Cl) δ (ppm) 7.60 (d, 2H, J=8.8 Hz) 7.18 (d, 2H, J=8.4 Hz) 5.01 (s, 2H) 4.87 (q, 2H, J=7.1 Hz) 1.25 (t, 3H, J=7.0 Hz).

reactant | HCl | Cl | ClH
reactant | (4-trifluoromethyl-phenoxy)-acetonitrile | 1.36 mol, 273.0 g | FC(C1=CC=C(OCC#N)C=C1)(F)F | C9H6F3NO
reactant | ethanol | 1.49 mol, 86.9 mL | C(C)O | C2H6O
solvent | ether | 2 M, 815 mL | CCOCC | C4H10O
product | 2-(4-trifluoromethyl-phenoxy)-acetimidic acid ethyl ester hydrochloride | Cl.C(C)OC(COC1=CC=C(C=C1)C(F)(F)F)=N | InChI=1S/C11H12F3NO2.ClH/c1-2-16-10(15)7-17-9-5-3-8(4-6-9)11(12,13)14;/h3-6,15H,2,7H2,1H3;1H
